US05569664
The method taught by R. A. Farr et al, J. Org. Chem. 1981, 46, 1212-1215, was used in the following two-step preparation. A vigorously stirred solution of 16.5 grams (0.129 mole) of 4-aminocarbonylpiperidine, 25.0 grams (0.135 mole) of 4-propoxyphenylmethyl chloride, and 19.4 grams (0.193 mole) of potassium bicarbonate in 200 mL of toluene was heated at reflux for 6.5 hours. The reaction mixture was then cooled, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with two portions of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a solid residue, which was slurried in pentane and collected by filtration, yielding 28.2 grams of 4-aminocarbonyl-N-(4-propoxyphenylmethyl)piperidine, mp 142°-146° C. The NMR spectrum was consistent with the proposed structure.

reactant | 4-aminocarbonylpiperidine | 0.129 mole, 16.5 grams | NC(=O)C1CCNCC1 | C6H12N2O
reactant | 4-propoxyphenylmethyl chloride | 0.135 mole, 25.0 grams | C(CC)OC1=CC=C(C=C1)CCl | C10H13ClO
reactant | potassium bicarbonate | 0.193 mole, 19.4 grams | C([O-])(O)=O.[K+]
reactant | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-aminocarbonyl-N-(4-propoxyphenylmethyl)piperidine | 28.2 grams | NC(=O)C1CCN(CC1)CC1=CC=C(C=C1)OCCC | C16H24N2O2
